US06919329B2
Step 1: Preparation of 2-amino-5-nitrobenzenethiol
To a stirred solution of 6-nitrobenzothiazole (30 g, 0.1665 mol) in ethanol (500 mL) is added 100% hydrazine hydrate (60.2 mL, 1.931 mol). The mixture is refluxed for 2 h at which time the solution turns red. The reaction is quenched by the addition of ice cold conc. HCl until the red color disappears. The resulting solid is filtered, washed with water (25 mL) and dried under high vacuum to give the title compound as a yellow solid (28.96 g, 84%), MS m/z 171.5 (M+H)+.

reactant | 6-nitrobenzothiazole | 0.1665 mol, 30 g | [N+](=O)([O-])C1=CC2=C(N=CS2)C=C1 | C7H4N2O2S
reactant | hydrazine hydrate | 1.931 mol, 60.2 mL | O.NN
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 2-amino-5-nitrobenzenethiol | 28.96 g, 84% | NC1=C(C=C(C=C1)[N+](=O)[O-])S | C6H6N2O2S
